* ============================================================
* AD636 Behavioural True RMS-to-DC Converter for ngspice
* Based on Analog Devices AD636 datasheet specifications
*
* Key specs modelled:
*   Input range:     0 to 200 mV rms (direct input)
*   Extended range:  0 to 7V rms (with 1/35 input attenuator)
*   Accuracy:        +/-1 mV +/- 0.5% of reading
*   Bandwidth:       1 MHz (-3dB at 200mV input)
*   Supply:          +/-5V to +/-16.5V
*   Supply current:  800 uA typ
*   Output Rout:     ~1 ohm
*   Averaging:       internal 8k ohm + external CAV capacitor
*   Time constant:   tau = 8k * CAV
*
* RMS Algorithm:
*   1. Square the input:      V^2 = Vin * Vin
*   2. Average (lowpass):     <V^2> via R_avg + CAV
*   3. Square root:           Vrms = sqrt(<V^2>)
*
* Implementation:
*   - B-source for squaring
*   - RC filter for averaging (8k internal + external CAV)
*   - B-source for square root
*   - Bandwidth limiting at input
*
* Pins: VIN CAV VOUT VCC VEE COM
*   VIN  = signal input
*   CAV  = averaging capacitor (connect external cap to COM)
*   VOUT = DC output = RMS of input
*   VCC  = positive supply
*   VEE  = negative supply
*   COM  = common/ground reference for output
*
* Instance: XRMS vin cav vout vcc vee com AD636
*
* External wiring:
*   CAV pin to COM pin via capacitor (e.g., 10uF)
*   For 1V RMS input: use external 1/5 attenuator (4x 10k + 2.5k)
* ============================================================

.subckt AD636 vin cav vout vcc vee com

* === Parameters ===
.param Ravg   = 8e3      ; 8k internal averaging resistor
.param BW_in  = 1e6      ; 1 MHz input bandwidth
.param Rout   = 1        ; 1 ohm output impedance
.param Rin    = 1e6      ; 1 Mohm input impedance

* === Input stage ===
* Unity-gain buffer with 1 MHz bandwidth limit
* Input impedance provided by Rin to ground
* RC lowpass: 100 ohm + Cin gives -3dB at 1 MHz
Rin1 vin com {Rin}
.param Cin_val = {1 / (2 * 3.14159265 * BW_in * 100)}
Rbw vin vin_filt 100
Cin1 vin_filt com {Cin_val}

* === Squaring stage ===
* V_sq = Vin^2 (always positive)
* B-source computes the square of the filtered input
B_square sq_out com V = V(vin_filt, com) * V(vin_filt, com)

* === Averaging stage ===
* Internal 8k resistor + external CAV capacitor
* The CAV pin connects to external cap, other end to COM
* Time constant = 8k * CAV
Ravg1 sq_out cav {Ravg}

* === Square root stage ===
* Vrms = sqrt(V_avg)
* Protect against negative values from numerical noise
B_sqrt rms_raw com V = sqrt(abs(V(cav, com)) + 1e-20)

* === Output buffer ===
* Low impedance output with rail clamping
Rout1 rms_raw vout {Rout}

* === Supply current (quiescent load) ===
Rq vcc vee 20e3

.ends AD636
