* ============================================================
* AD824 Behavioural Op-Amp Model for ngspice
* Based on Analog Devices AD824 datasheet specifications
*
* Key specs modelled:
*   Aol  = 100 dB (100,000 V/V)
*   GBW  = 2 MHz
*   SR   = 3.3 V/us
*   Vos  = 0.5 mV (typical)
*   Ib   = 10 pA (FET input, very low)
*   Rin  = 1 Teraohm (FET input)
*   Rout = 100 ohms (open-loop)
*   Vs   = +/-2.5 to +/-15 V
*   Vswing = +/-(Vs - 1.2V)  (rail-to-rail output)
*
* Architecture:
*   Input stage:  differential Rin, FET bias currents, offset
*   Gain stage:   Gm into R||C dominant pole
*   Output stage: B-source limiter with Rout
*
* Pins: IN+ IN- VCC VEE OUT
* Instance: XU1 inp inn vcc vee out AD824
* ============================================================

.subckt AD824 inp inn vcc vee out

* === Design parameters ===
* Aol = 100 dB = 100000 V/V
* GBW = 2 MHz
* fp = GBW / Aol = 20 Hz
* Gm = Aol / Rint ; choose Rint = 1Meg -> Gm = 0.1 A/V
* Cp = 1 / (2*pi*Rint*fp) = 7.96uF

.param Aol = 100000
.param GBW = 2e6
.param Rint = 1e6
.param Gm_val = {Aol / Rint}
.param fp = {GBW / Aol}
.param Cp_val = {1.0 / (6.28318 * Rint * fp)}
.param Vos = 0.5e-3
.param Ib = 10e-12
.param Rin_diff = 1e12
.param Rout_val = 100
.param SR = 3.3e6

* === Input stage ===
* Differential input resistance
Rin inp inn {Rin_diff}
* Input bias currents (FET - very low)
Ibp inp 0 DC {Ib}
Ibn inn 0 DC {Ib}
* Input offset voltage
Vos inp_os inp DC {Vos}

* === Gain stage (Gm * Rint with dominant pole) ===
Gm 0 int inp_os inn {Gm_val}
Rint_node int 0 {Rint}
Cp int 0 {Cp_val}

* === Slew rate limiting ===
* Clamp Gm output current to limit slew rate
* SR = I_max / Cp  =>  I_max = SR * Cp
D1 int sr_hi DSLEW
D2 sr_lo int DSLEW
Vsr_hi sr_hi 0 DC {SR * Cp_val * 0.9}
Vsr_lo sr_lo 0 DC {-SR * Cp_val * 0.9}
.model DSLEW D(IS=1e-14 N=1 BV=100)

* === Output stage with rail limiting ===
* Output swing: +/-(Vs - 1.2V)
Bout out_int 0 V = max(min(V(int), V(vcc)-1.2), V(vee)+1.2)
Rout out_int out {Rout_val}

.ends AD824
