* ============================================================
* DAC7800 Behavioural MDAC Model for ngspice
* 12-bit Multiplying Digital-to-Analog Converter
* Based on TI DAC7800 datasheet specifications
*
* Key specs modelled:
*   Resolution:  12 bits (codes 0-4095)
*   Rfb:         10 kohm (internal feedback resistor)
*   Cout:        50 pF (code-dependent, using average)
*   Rout:        10 kohm (output impedance at mid-code)
*   Settling:    1 us to 0.01%
*   Vref range:  +/-10V
*
* MDAC Operation Modes:
*   Current mode: Iout = (D/4096) * Vref/Rfb
*   Voltage mode (with external op-amp): Vout = -Vref * D/4096
*   Variable resistor: Reff = Rfb * 4096/D
*
* This model implements the VOLTAGE-MODE multiplying function:
*   Vout = Vin * D/4096
*
* The DAC code is set via parameter or control voltage:
*   - Static: set .param DAC_CODE before simulation
*   - Dynamic: apply voltage to VCTRL pin (0-5V maps to 0-4095)
*
* Pins: VIN VOUT VCTRL RFB_OUT
*   VIN     = analog reference/signal input
*   VOUT    = multiplied output
*   VCTRL   = control voltage (0-5V = code 0-4095)
*   RFB_OUT = feedback resistor output (for TIA config)
*
* Instance: XDAC vin vout vctrl rfb DAC7800
* ============================================================

.subckt DAC7800 sig_in sig_out ctrl_in rfb_pin

* === Parameters ===
.param Rfb_val  = 10e3    ; 10k internal feedback resistor
.param Cout_val = 50e-12  ; 50 pF average output capacitance
.param Rout_val = 100     ; output series resistance

* === Feedback resistor (between RFB and output) ===
Rfb1 rfb_pin mult_out {Rfb_val}

* === Multiplying function ===
* Vout = Vsig * (Vctrl / 5.0)
* Vctrl = 0-5V maps to DAC code 0-4095
* Clamp ctrl to 0-5V using min/max (ngspice compatible)
B_mult mult_out 0 V = V(sig_in) * max(min(V(ctrl_in), 5), 0) / 5.0

* === Output filtering (bandwidth + capacitance) ===
Rout1 mult_out filt_out {Rout_val}
Cout1 filt_out 0 {Cout_val}

* === Output buffer ===
Eout sig_out 0 filt_out 0 1

.ends DAC7800


* ============================================================
* DAC7800_STATIC — Simplified static-code version
* Use when DAC code is fixed during simulation
*
* This model uses a .param for the code instead of a control pin.
* Simpler and faster for frequency sweeps where code is stepped
* between simulation runs (as in SimGUI).
*
* Pins: VIN VOUT RFB_OUT
* Instance: XDAC vin vout rfb DAC7800_STATIC
* Set code: .param DAC_CODE=2048 (before .subckt instantiation)
* ============================================================

.subckt DAC7800_STATIC sig_in sig_out rfb_pin

.param Rfb_val  = 10e3
.param Cout_val = 50e-12
.param Rout_val = 100

* Gain = DAC_CODE / 4096 (DAC_CODE set externally via .param)
.param GAIN = {DAC_CODE / 4096.0}

Rfb1 rfb_pin mult_out {Rfb_val}
B_mult mult_out 0 V = V(sig_in) * GAIN
Rout1 mult_out filt_out {Rout_val}
Cout1 filt_out 0 {Cout_val}
Eout sig_out 0 filt_out 0 1

.ends DAC7800_STATIC
