* ============================================================
* LM4562 Behavioural Op-Amp Model for ngspice
* Based on TI LM4562 datasheet specifications
*
* Key specs modelled:
*   Aol  = 140 dB (10 million V/V)
*   GBW  = 55 MHz
*   SR   = 20 V/us
*   Vos  = 0.1 mV
*   Ib   = 10 nA
*   Rin  = 10 Megohm (differential)
*   Rout = 50 ohms (open-loop)
*   Vs   = +/-2.5 to +/-17 V
*   Vswing = +/-(Vs - 1.5V)
*
* Architecture:
*   Input stage:  differential Rin, bias currents, offset
*   Gain stage:   Gm into R||C dominant pole (Aol = Gm*Rint)
*   Output stage: B-source limiter with Rout
*
* Pins: IN+ IN- VCC VEE OUT
* Instance: XU1 inp inn vcc vee out LM4562
*
* Note: This is a SINGLE op-amp subcircuit.
* The physical LM4562 is dual - instantiate twice for both halves.
* ============================================================

.subckt LM4562 inp inn vcc vee out

* === Design parameters ===
* Gm = 10 mA/V (reasonable for macromodel)
* Rint = Aol / Gm = 1e7 / 0.01 = 1 Gohm
* fp = GBW / Aol = 55e6 / 1e7 = 5.5 Hz
* Cp = 1/(2*pi*fp*Rint) = 1/(2*pi*5.5*1e9) = 28.9 pF

.param Gm_val = 0.01
.param Rint_val = 1e9
.param Cp_val = 28.9e-12
.param Rin_val = 10e6
.param Vos_val = 0.1e-3
.param Ib_val = 10e-9
.param Rout_val = 50
.param Vdrop_val = 1.5

* === Input stage ===
Rin1 inp inn {Rin_val}
Ib1 inp 0 {Ib_val}
Ib2 inn 0 {Ib_val}
Vos1 inp inp_os {Vos_val}

* === Gain stage ===
* Gm: differential voltage -> current into high-Z node
Gm1 0 int1 inp_os inn {Gm_val}

* Dominant pole: Rint || Cp
Rint1 int1 0 {Rint_val}
Cp1 int1 0 {Cp_val}

* === Gain node clamping (prevents runaway) ===
* Clamp int1 to supply rails
D_clp1 int1 vcc DCLAMP
D_clp2 vee int1 DCLAMP
.model DCLAMP D(Is=1e-14 N=1 Rs=100)

* === Output stage ===
* B-source with hard rail clamping
* Output = int1 clamped to +/-(Vs - Vdrop)
B_out out_raw 0 V = min(max(V(int1), V(vee)+1.5), V(vcc)-1.5)

* Output resistance
Rout1 out_raw out {Rout_val}

.ends LM4562
