* Quick test: does R_damp prevent oscillation?
* Same as freq_verify but with R_damp = 100Meg

.title R_damp Verification

.include ../models/LM4562.lib
.include ../models/DAC7800.lib

VCC vcc 0 DC 15
VEE vee 0 DC -15

.param VCTRL_SET = 0.1477
Vctrl ctrl_node 0 DC {VCTRL_SET}

R_lp lp sum_inv 10k
R_bp bp sum_inv 22k
Rf_sum hp sum_inv 10k
XU1a 0 sum_inv vcc vee hp LM4562

XDAC1 hp mdac1_out ctrl_node rfb1_nc DAC7800
Rint1 mdac1_out int1_inv 10k
Cint1 int1_inv bp 470p
R_damp1 int1_inv bp 100Meg
XU1b 0 int1_inv vcc vee bp LM4562

XDAC2 bp mdac2_out ctrl_node rfb2_nc DAC7800
Rint2 mdac2_out int2_inv 10k
Cint2 int2_inv lp 470p
R_damp2 int2_inv lp 100Meg
XU2a 0 int2_inv vcc vee lp LM4562

Vkick kick_node 0 PULSE(0 0.1 0.1m 1n 1n 10u 1)
Rkick kick_node hp 100k

RL bp 0 100k

.tran 1u 100m UIC

.control
tran 1u 100m uic

meas tran t1 when v(bp)=0 rise=20
meas tran t2 when v(bp)=0 rise=21
let period = t2 - t1
let freq = 1 / period
echo "Frequency:"
print freq

meas tran bp_pp pp v(bp) from=50m to=100m
echo "BP Vpp:"
print bp_pp

quit
.endc

.end
